US05244596
In a 50 ml three-neck flask, 0.40 g (2.42 m mole) of 2-amino-4-butylphenol, 0.85 g (2.74 m mole) of 6-decyloxy-2-naphthoic acid chloride and 10 ml of dioxane were placed. To the mixture, 0.81 ml of pyridine was added dropwise under stirring at ca. 75° C. of mixture temperature. After the reaction, the reaction mixture was poured into 80 ml of water to precipitate a crystal. The crystal was filtered, washed with water and recrystallized from acetone to obtain 1.00 g of 2-(6-decyloxy-2-naphthoylamino)-4-butylphenol (Yield: 86.5%).

reactant | 2-amino-4-butylphenol | 0.40 g | NC1=C(C=CC(=C1)CCCC)O | C10H15NO
reactant | 6-decyloxy-2-naphthoic acid chloride | 0.85 g | C(CCCCCCCCC)OC=1C=C2C=CC(=CC2=CC1)C(=O)Cl | C21H27ClO2
reactant | dioxane | 10 ml | O1CCOCC1 | C4H8O2
reactant | pyridine | 0.81 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 80 ml | O | H2O
product | 2-(6-decyloxy-2-naphthoylamino)-4-butylphenol | 1.00 g, Yield: 86.5% | C(CCCCCCCCC)OC=1C=C2C=CC(=CC2=CC1)C(=O)NC1=C(C=CC(=C1)CCCC)O | C31H41NO3
